US03966771
5-(4-chlorophenyl)-2-furyl Cyclopropyl Ketone
To a stirring mixture of 128 g (0.96 mole) of AlCl3 and 720 ml of CS2 was added portionwise 100 g (0.96 mole) of cyclopropanecarboxylic acid chloride while keeping the temperature below 30° by means of an ice bath. A solution of 172 g (0.96 mole) of 2-(4-chlorophenyl)furan in 480 ml of CS2 was added dropwise while maintaining the temperature between 10°-15° with large volume of HCl gas being given off. The reaction mixture was stirred in an ice bath for 15 minutes, allowed to warm to room temperature over a one hour period, and then added to 2000 ml of ice/water. The aqueous layer was separated from the CS2 layer and extracted with 2 × 500 ml portions of CH2Cl2. The CS2 and CH2Cl2 layers were combined, were washed with 1000 ml of 6% Na2CO3 solution and with 1000 ml of water, and then dried over magnesium sulfate. The solvent was removed on a rotary evaporator leaving red-brown residue which was extracted several times with boiling hexane. The combined hexane extracts were cooled and the resulting solid filtered and air dried to yield 41 g (17%) of product. An analytical sample was prepared by recrystallizing a sample from hexane/Darco, m.p. 88°-89°.

reactant | AlCl3 | 0.96 mole, 128 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | cyclopropanecarboxylic acid chloride | 0.96 mole, 100 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 2-(4-chlorophenyl)furan | 0.96 mole, 172 g | ClC1=CC=C(C=C1)C=1OC=CC1 | C10H7ClO
reactant | HCl | Cl | ClH
solvent | CS2 | 480 ml | C(=S)=S | CS2
solvent | CS2 | 720 ml | C(=S)=S | CS2
product | 5-(4-chlorophenyl)-2-furyl Cyclopropyl Ketone | 41 g, 17% | C1(CC1)C(=O)C=1OC(=CC1)C1=CC=C(C=C1)Cl | C14H11ClO2
